US07459472B2
2-(S)-(5-Bromo-2-heptyloxy-benzoylamino)-3-[2′-(4-trifluoromethyl-phenoxy)-biphenyl-4-yl]-propionic acid
5-Bromo-2-heptyloxy-benzoic acid (0.231 g, 0.738 mmol) and the (2S)-Amino-3-(2′-hydroxy-biphenyl-4-yl)-propionic acid methyl ester (0.200 g, 0.738 mmol) were then combined as per general procedure A with HBTU (0.335 g, 0.885 mmol) and diisopropylethylamine (0.285 g, 2.21 mmol) to yield the (2S)-(5-Bromo-2-heptyloxy-benzoylamino)-3-(2′-hydroxy-biphenyl-4-yl)-propionic acid methyl ester (0.200 g). The methyl ester of the title compound was the prepared from (2S)-(5-Bromo-2-heptyloxy-benzoylamino)-3-(2′-hydroxy-biphenyl-4-yl)-propionic acid methyl ester (0.080 g, 0.140 mmol) and the trifluoromethylboronic acid (0.050 g, 0.281 mmol) as per general procedure F, which was further hydrolyzed as per general procedure C to give the title compound (0.020 g). 1H-NMR(400 MHz, CDCl3): 1.14(t, 3H), 1.53 (m, 8H), 1.92(m, 2H), 3.6(m, 2H), 4.21(m, 2H), 5.21(m, 1H), 7.12(d, 1H), 7.22(m, 2H), 7.36(d, 1H), 7.5(d, 2H), 7.58(m, 2H), 7.66(m, 1H), 7.78 (m, 6H), 8.62 (S, 1H), 8.9 (bs, 1H).

reactant | (2S)-(5-Bromo-2-heptyloxy-benzoylamino)-3-(2′-hydroxy-biphenyl-4-yl)-propionic acid methyl ester | 0.140 mmol, 0.080 g | COC([C@H](CC1=CC=C(C=C1)C1=C(C=CC=C1)O)NC(C1=C(C=CC(=C1)Br)OCCCCCCC)=O)=O | C30H34BrNO5
reactant | trifluoromethylboronic acid | 0.281 mmol, 0.050 g | FC(F)(F)B(O)O | CH2BF3O2
product | 2-(S)-(5-Bromo-2-heptyloxy-benzoylamino)-3-[2′-(4-trifluoromethyl-phenoxy)-biphenyl-4-yl]-propionic acid | 0.020 g | BrC=1C=CC(=C(C(=O)N[C@H](C(=O)O)CC2=CC=C(C=C2)C2=C(C=CC=C2)OC2=CC=C(C=C2)C(F)(F)F)C1)OCCCCCCC | C36H35BrF3NO5
